US07449582B2
Step E: Preparation of 3-(3-amino-2,6-dichloro-phenyl)-1-methyl-1H-[1,6]naphthyridin-2-one
To a suspended solution of 3-(2,6-dichloro-3-nitro-phenyl)-1-methyl-1H-[1,6]naphthyridin-2-one (1.55 g, 4.427 mmol) in EtOH (12 mL) is added a solution of Sn(II)Cl2 (3.80 g, 19.92 mmol) in HCl (con. 16 mL) at 75° C. After stirring for 30 minutes at 75° C., the mixture is diluted with EtOAc and neutralized with K2CO3 to a pH of 8. The organic layer is washed with saturated K2CO3, brine and dried, filtered and concentrated to give crude product. The crude product is purified by recrystallization with CH2Cl2/EtOAc/Hexane to give the titled intermediate as a solid (1.32 g, 93.15%).

reactant | 3-(2,6-dichloro-3-nitro-phenyl)-1-methyl-1H-[1,6]naphthyridin-2-one | 4.427 mmol, 1.55 g | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)C=1C(N(C2=CC=NC=C2C1)C)=O | C15H9Cl2N3O3
solvent | EtOH | 12 mL | CCO | C2H6O
solvent | HCl | 16 mL | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
product | 3-(3-amino-2,6-dichloro-phenyl)-1-methyl-1H-[1,6]naphthyridin-2-one | 1.32 g, 93.15% | NC=1C(=C(C(=CC1)Cl)C=1C(N(C2=CC=NC=C2C1)C)=O)Cl | C15H11Cl2N3O
